US07192956B2
To a stirred solution of 1-(2-amino-5-bromophenyl)-ethanone (10.00 g, 46.70 mmol) in THF (150 mL) was added 3.0M ethyl magnesium bromide (50 mL, 150 mmol) slowly at 0° C. over 20 minutes. The reaction was stirred 1 hr at 0° C., quenched with ammonium chloride solution (sat.) and extracted with ethyl acetate several times. The organic layer was washed with brine and dried over magnesium sulfate. The concentrated crude material was dissolved in THF (150 mL). 1,1′-Carbonyldiimidazole (9.00 g, 56.04 mmol) was added and the reaction was stirred overnight at room temperature. The reaction was partitioned between ammonium chloride solution (sat.) and ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated. Flash silica gel column separation with 30% ethyl acetate/hexane followed by trituration with ether gave 6-bromo-4-ethyl-4-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one as a white solid (5.84 g, 46%). 1H NMR (DMSO-d6): δ 10.28 (s, 1H), 7.43 (m, 2H), 6.783 (d, J=8.3 Hz, 1H), 2.02 (m, 1H), 1.87 (m, 1H), 1.57 (s, 3H), 0.82 (t, J=7.3 Hz, 3H). MS (ESI) m/z 270/272 ([M+H]+); MS (ESI) m/z 268/270 ([M−H]−); HRMS: calcd for C11H12BrNO2, 269.0051; found (ESI_FT), 270.01259. Anal. Calcd for C11H12BrNO2: C, 48.91; H, 4.48; N, 5.19. Found: C, 48.94; H, 4.38; N, 5.00.

reactant | 1-(2-amino-5-bromophenyl)-ethanone | 46.70 mmol, 10.00 g | NC1=C(C=C(C=C1)Br)C(C)=O | C8H8BrNO
reactant | ethyl magnesium bromide | 150 mmol, 3.0M, 50 mL | C(C)[Mg]Br
reactant | 1,1′-Carbonyldiimidazole | 56.04 mmol, 9.00 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 6-bromo-4-ethyl-4-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 5.84 g, 46% | BrC=1C=CC2=C(C(OC(N2)=O)(C)CC)C1 | C11H12BrNO2
